US07091199B1
Preparation of (3-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I(b), Compound 1)
The title compound is prepared from a mixture of toluene-4-sulfonic acid 2-[tert-butoxycarbonyl-(3-fluoro-benzyl)-amino]-ethyl ester and 3-thieno[2,3-d]isoxazol-3-yl-phenol essentially as described in Example 3, Scheme I, Step F. It is understood by one skilled in the art that the nitrogen may be deprotected by acid hydrolysis, to give the final, desired compound.

reactant | toluene-4-sulfonic acid 2-[tert-butoxycarbonyl-(3-fluoro-benzyl)-amino]-ethyl ester | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=CC=C1)F | C21H26FNO5S
reactant | 3-thieno[2,3-d]isoxazol-3-yl-phenol | O1N=C(C2=C1C=CS2)C=2C=C(C=CC2)O | C11H7NO2S
product | (3-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | FC=1C=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC1 | C20H17FN2O2S
